US05284838
b) 2-Methoxy-4-nitropyridine N-oxide
30 ml of concentrated sulfuric acid, cooled to 0° C., are added to 15.5 g of 2-methoxypyridine N-oxide hydrochloride, after which 42 ml of fuming nitric acid and 14 ml of concentrated sulfuric acid are added dropwise at 0° C. After the temperature has been allowed to rise, the reaction mixture is heated for 3 hours at 90°-100° C. and is then cooled and poured onto 50 g of ice. It is neutralized to pH 7 by the addition of concentrated aqueous ammonia at a temperature below 10° C. The aqueous phase is extracted 6 times with methylene chloride, the organic phase is then dried over sodium sulfate and concentrated and 11 g of a yellow solid corresponding to a mixture of 2-methoxy-4-nitropyridine N-oxide and 2-methoxy-5-nitropyridine N-oxide are recovered. The 2 products are separated by chromatography on silica using a methylene chloride/methanol mixture (95/5) as the eluent. 6.3 g of 2-methoxy-4-nitropyridine N-oxide are collected.

reactant | 2-methoxypyridine N-oxide hydrochloride | 15.5 g | Cl.COC1=[N+](C=CC=C1)[O-]
reactant | nitric acid | 42 ml | [N+](=O)(O)[O-] | HNO3
reactant | ammonia | N | H3N
solvent | sulfuric acid | 30 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 14 ml | S(O)(O)(=O)=O | H2O4S
product | 2-Methoxy-4-nitropyridine N-oxide | COC1=[N+](C=CC(=C1)[N+](=O)[O-])[O-] | C6H6N2O4
